US07678803B2
In a microwave vial with a stir bar, N,N-dimethylethanolamine (101 mg, 1.13 mmol) is dissolved in DMF (5 mL). To this solution is added sodium hydride (60% suspension in mineral oil, 45 mg, 1.136 mmol) and the mixture stirred at room temperature for 5 minutes and 1-(4-Amino-8-fluoro-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (192 mg, 0.568 mmol) is added. The reaction is sealed and placed in the microwave reactor where it is heated to 150° C. for 30 minutes. The reaction is cooled, quenched by adding 25 mL sat. NH4Cl (aq) and extracted with CH2Cl2 (3×5 mL). The combined organics are dried with Na2SO4, concentrated and purified by silica gel chromatography by two gradient runs on the same column, the first 0% to 100% ethyl acetate in hexanes and the second 0% to 50% methanol in ethyl acetate. This gives 1-[4-Amino-8-(2-dimethylamino-ethoxy)-quinazolin-7-yl]-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one as a yellow powder (171 mg, 74% yield) (LC/MS m/z=408 [M+H]+).

reactant | N,N-dimethylethanolamine | 1.13 mmol, 101 mg | CN(CCO)C | C4H11NO
reactant | sodium hydride | 1.136 mmol, 45 mg | [H-].[Na+]
reactant | 1-(4-Amino-8-fluoro-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.568 mmol, 192 mg | NC1=NC=NC2=C(C(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)F | C19H19FN4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[4-Amino-8-(2-dimethylamino-ethoxy)-quinazolin-7-yl]-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 171 mg, 74% yield | NC1=NC=NC2=C(C(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)OCCN(C)C | C23H29N5O2
